US07566735B2
1-[4-(1-methyl-1H-imidazol-4-yl)phenyl]-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole
A mixture of copper (I) iodide (10 mol %, 5 mg, 0.02 mmol), 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole (50 mg, 0.26 mmol), potassium carbonate (73 mg, 0.52 mmol) in DMSO (2 ml) was stirred for 1 min, then 4-(4-bromophenyl)-1-methyl-1H-imidazole (62 mg, 0.26 mmol) (WO91/09855) and N,N-dimethylglycine (20 mol %, 5.4 mg) were then successively added. The reaction tube was quickly sealed and the contents were heated in a microwave reactor at 180° C. for 40 mins. The reaction mixture was partitioned between ethyl acetate and water, dried with sodium sulphate and solvent was removed by rotary evaporation and the sample purified by MDAP. The solvent was removed by rotary evaporation to give the title compound as a solid (15 mg, 16%).

reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 0.26 mmol, 50 mg | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
reactant | potassium carbonate | 0.52 mmol, 73 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-bromophenyl)-1-methyl-1H-imidazole | 0.26 mmol, 62 mg | BrC1=CC=C(C=C1)C=1N=CN(C1)C | C10H9BrN2
reactant | N,N-dimethylglycine | 5.4 mg | CN(CC(=O)O)C | C4H9NO2
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 0.02 mmol, 5 mg | [Cu]I
product | 1-[4-(1-methyl-1H-imidazol-4-yl)phenyl]-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 15 mg, 16% | CN1C=NC(=C1)C1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F | C18H17F3N4
